US07429565B2
[1-Cyano-5-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-3-methyl-pent-3-enyl]-phosphonic acid
To a solution of {1-cyano-5-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-3-methyl-pent-3-enyl}-phosphonic acid diethyl ester (35 mg, 0.065 mmol) in acetonitrile (2 mL) was added TMSBr (180 μL, 1.38 mmol) and 2,6-lutidine (160 μL, 1.38 mmol). The reaction solution was allowed stir at room temperature for one hour before quenching with MeOH. The reaction mixture was dried under reduced pressure and the residue was purified by RP HPLC using a C18 column with a gradient of H2O, 0.1% TFA-acetonitrile, 0.1% TFA to provide 15 mg (60%) of the desired product. 1H NMR (300 MHz, CD3OD) δ 1.86 (s,3H), 2.15 (s, 3H), 2.38-2.57 (m, 2H), 3.17-3.28 (m, 1H), 3.44 (d, J=7.2 Hz, 2H), 3.80 (s, 3H), 5.25 (s, 2H), 5.47 (t, J=7.2 Hz, 1H) ppm; 31P (121.4 MHz, CD3OD) δ 15.28 ppm; MS (m/z) 380 [M−H]−, 382 [M+H]+.

reactant | {1-cyano-5-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-3-methyl-pent-3-enyl}-phosphonic acid diethyl ester | 0.065 mmol, 35 mg | C(C)OP(OCC)(=O)C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)C#N | C26H40NO7PSi
reactant | TMSBr | 1.38 mmol, 180 μL | C[Si](C)(C)Br | C3H9BrSi
reactant | 2,6-lutidine | 1.38 mmol, 160 μL | N1=C(C=CC=C1C)C | C7H9N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | [1-Cyano-5-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-3-methyl-pent-3-enyl]-phosphonic acid | 15 mg, 60% | C(#N)C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C)P(O)(O)=O | C17H20NO7P
